US04956416
4,4-Di-(t-butylperoxy)pentanohydrazide was prepared by reacting ethyl 4,4-di-(t-butylperoxy)pentanoate with 9 molar excess of 54% aqueous hydrazine. A 3-neck flask equipped with a magnetic stirrer, a thermometer and an addition funnel was charged with 125 mL of isopropanol (IPA), 15.3 g (0.05 mole) of 99% ethyl 4,4-di-(t-butylperoxy)pentanoate and 30 g (about 0.50 mole) of 54% aqueous hydrazine at 25° C. The solution was stirred for about 20 hours at 20°-25° C. Then the reaction mass was poured into 1000 mL of water and extracted once with 300 mL of methylene chloride. After drying over 10% by weight of anhydrous magnesium sulfate and separation of the spent desiccant by filtration, the methylene chloride was removed in vacuo leaving 14.4 g of liquid product. 30 mL of pentane were added and a solid was precipitated. The solid was separated by filtration and air dried, leaving 12.2 g (83.6% of theory, uncorrected) of a white solid having a melting point (mp) of 76°-78° C. An infrared (IR) spectrum of the product showed strong carbonyl absorption bands at 1640 cm-1 and at 1680 cm-1 and a strong NH band at 3300 cm-1. A DSC scan run on the product showed a peroxide decomposition exotherm at 170° C. These product data confirm that the product was 4,4-Di-(t-butylperoxy)pentanohydrazide (I-1).

reactant | ethyl 4,4-di-(t-butylperoxy)pentanoate | C(C)(C)(C)OOC(CCC(=O)OCC)(C)OOC(C)(C)C | C15H30O6
reactant | hydrazine | NN | H4N2
reactant | isopropanol | 125 mL | C(C)(C)O | C3H8O
reactant | ethyl 4,4-di-(t-butylperoxy)pentanoate | 0.05 mole, 15.3 g | C(C)(C)(C)OOC(CCC(=O)OCC)(C)OOC(C)(C)C | C15H30O6
reactant | hydrazine | about 0.50 mole, 30 g | NN | H4N2
solvent | water | 1000 mL | O | H2O
product | 4,4-Di-(t-butylperoxy)pentanohydrazide | C(C)(C)(C)OOC(CCC(=O)NN)(C)OOC(C)(C)C | C13H28N2O5
